US04925879
A solution of osmium tetroxide (2 g) in pyridine (10 ml) was added with stirring to a solution of N,N-dimethyl-1-[1(3,4-dichlorophenyl)cyclobutyl]pent-4-enylamine (2.43 g) in pyridine (20 ml). The mixture was allowed to stand for one and three quarter hours and was then added to a mixture of pyridine (40 ml) and a solution of sodium bisulphite (3.6 g) in water (60 ml). The resulting aqueous layer was extracted with dichloromethane and the extracts washed, dried and evaporated in vacuo to give a residue which was purified by flash chromatography using ether as eluant to give 5-[1-(3,4-dichlorophenyl)cyclobutyl]-5-dimethylaminopentane-1,2-diol the boiling point of which was not determined.

reactant | N,N-dimethyl-1-[1(3,4-dichlorophenyl)cyclobutyl]pent-4-enylamine | 2.43 g | CN(C)C(CCC=C)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | C17H23Cl2N
reactant | sodium bisulphite | 3.6 g | S([O-])(O)=O.[Na+]
reactant | water | 60 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
catalyst | osmium tetroxide | 2 g | [Os](=O)(=O)(=O)=O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 5-[1-(3,4-dichlorophenyl)cyclobutyl]-5-dimethylaminopentane-1,2-diol | ClC=1C=C(C=CC1Cl)C1(CCC1)C(CCC(CO)O)N(C)C | C17H25Cl2NO2
